US07479558B2
4-Chloro-2-methylsulfinyl-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one
A solution of 4-Chloro-2-methylsulfanyl-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (1.0 g, 2.7 mmol) in dichloromethane (50 mL) was mixed with m-CPBA (0.63 g, 4.0 mmol). The resultant mixture was stirred at room temperature for 10 minutes and concentrated under vacuum. Flash chromatography (EtOAc/Hexane, 3:1) then provided the title compound (0.86 g, 82%): MS (ES) m/z 388 (M+H)+; 1H-NMR(CDCl3) δ 2.80 (s, 3H), 7.03 (d, J=9.9 Hz, 1H), 7.39 (d, J=8.0 Hz, 2H), 7.86 (d, J=8.0 Hz, 2H), 8.19 (d, J=9.9 Hz, 1H).

reactant | 4-Chloro-2-methylsulfanyl-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 2.7 mmol, 1.0 g | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=CC=C(C=C2)C(F)(F)F | C15H9ClF3N3OS
reactant | m-CPBA | 4.0 mmol, 0.63 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-Chloro-2-methylsulfinyl-8-(4-trifluoromethyl-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 0.86 g, 82% | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=CC=C(C=C2)C(F)(F)F | C15H9ClF3N3O2S
